US08053438B2
A mixture of (1H-benzo[d]imidazol-2-yl)(4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)phenyl)methanol (0.50 g, 1.24 mmol) in chloroform (7.5 mL) and acetone (4.00 mL) under nitrogen was treated with was treated with manganese dioxide (0.504 g, 6.21 mmol) in one portion. The reaction was heated to 50° C. After 40 minutes, the reaction was filtered through a pad of Celite™. The filtrate was washed (2×) with an aqueous saturated solution of sodium bicarbonate, with water and then brine. The organic layer was then dried with sodium sulfate and purified by column chromatography on silica gel using a gradient of 30 to 80% ethyl acetate in hexanes. The pure fractions were reduced under vacuum and the solid obtained was slurried in 1:1 EtOAc:ether, filtered and dried under vacuum to give (1H-benzo[d]imidazol-2-yl)(4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)phenyl)methanone as a white solid. MS (ESI, pos. ion) m/z: 400.9 (M+1). IC50 (uM) +++++.

reactant | (1H-benzo[d]imidazol-2-yl)(4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)phenyl)methanol | 1.24 mmol, 0.50 g | N1C(=NC2=C1C=CC=C2)C(O)C2=CC=C(C=C2)OC2=NC=CN=C2C2CCOCC2 | C23H22N4O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | chloroform | 7.5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 4.00 mL | CC(=O)C | C3H6O
catalyst | manganese dioxide | 6.21 mmol, 0.504 g | [O-2].[O-2].[Mn+4]
product | (1H-benzo[d]imidazol-2-yl)(4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)phenyl)methanone | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2C2CCOCC2 | C23H20N4O3
